US09403801B2
3-(4-((5-methyl-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-2-azaspiro[4.4]nonan-2-yl)-3-oxopropanenitrile
To a solution of 5-methyl-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(2-azaspiro[4.4]nonan-4-yl)pyrimidine-2,4-diamine (130 mg, 0.39 mmol) and 2-cyanoacetic acid (36 mg, 0.42 mmol) in a mixture of DCM (5 mL) and DMF (2 mL) were added Et3N (80 mg, 0.79 mmol) and HATU (0.3 g, 0.79 mmol) and the reaction mixture was stirred at rt for 1 h, then concentrated in vacuo. The residue was purified by silica gel column chromatography (DCM/MeOH (v/v)=10/1) to give the product as a yellow solid (0.11 g, 70%).

reactant | 5-methyl-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(2-azaspiro[4.4]nonan-4-yl)pyrimidine-2,4-diamine | 0.39 mmol, 130 mg | CC=1C(=NC(=NC1)NC=1C=NN(C1)C)NC1CNCC12CCCC2 | C17H25N7
reactant | 2-cyanoacetic acid | 0.42 mmol, 36 mg | C(#N)CC(=O)O | C3H3NO2
reactant | Et3N | 0.79 mmol, 80 mg | CCN(CC)CC | C6H15N
reactant | HATU | 0.79 mmol, 0.3 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-(4-((5-methyl-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-2-azaspiro[4.4]nonan-2-yl)-3-oxopropanenitrile | 0.11 g, 70% | CC=1C(=NC(=NC1)NC=1C=NN(C1)C)NC1CN(CC12CCCC2)C(CC#N)=O | C20H26N8O
